US07112582B2
Step-5: (5R,6Z)-6-[(5-benzyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methylene]-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid:
4-Nitrobenzy-6-[(acetyloxy)(5-benzyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate(450 mg, 0.65 mmol) was dissolved in THF (20 mL) and acetonitrile (10 mL). Freshly activated Zn dust (5.2 g) was added rapidly with 0.5 M phosphate buffer (pH 6.5, 28 mL). The reaction vessel was covered with foil to exclude light. The reaction mixture was vigorously stirred for 2 hours at room temperature. The reaction mixture was filtered, cooled to 3° C., and 0.1 M NaOH was added to adjust pH to 8.5. The filtrate was washed with ethyl acetate and the aqueous layer was separated. The aqueous layer was concentrated under high vacuum at 35° C. to give yellow precipitate. The product was purified by HP21 resin reverse phase column chromatography. Initially the column was eluted with deionized water (2 lits) and latter with 10% CAN: Water. The fractions containing the product were collected and concentrated at reduced pressure at room temperature. The yellow solid was washed with acetone and filtered. Dried. Yield: 50 mg, 18%; as yellow crystals; mp. 198° C.; (M+H) 411.

reactant | 4-Nitrobenzy-6-[(acetyloxy)(5-benzyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methyl]-6-bromo-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.65 mmol, 450 mg | [N+](=O)([O-])C1=CC=C(CC2=C(N3C(C(C3S2)(Br)C(C2=CC=3CN(CCC3S2)CC2=CC=CC=C2)OC(C)=O)=O)C(=O)[O-])C=C1
reactant | phosphate | 0.5 M, 28 mL, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | Zn | 5.2 g | [Zn] | Zn
product | (5R,6Z)-6-[(5-benzyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl)methylene]-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | C(C1=CC=CC=C1)N1CC2=C(CC1)SC(=C2)\C=C\2/[C@H]1SC=C(N1C2=O)C(=O)O | C21H18N2O3S2
